US07018988B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[2-(diethylamino)ethyl]-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 2, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4carboxylic acid, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained after column chromatography as an off-white solid as a mixture of E/Z-isomers.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | [1,1′-biphenyl]-4carboxylic acid | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[2-(diethylamino)ethyl]-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)NCCN(CC)CC)C1=CC=CC=C1 | C32H38N4O4
